US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-N-phenyl-1-piperidinebutanamide hydrochloride hydrate (2:2:1)
A mixture of 6.1 g (0.020 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 6.4 g (0.030 mole) of 4-chloro-N-methyl-N-phenylbutanamide, 8.5 g (0.080 mole) of anhydrous sodium carbonate and 0.4 g (0.002 mole) of potassium iodide in 100 mL of N,N-dimethylformamide was stirred at ambient temperature for 72 h. The mixture was poured into 1.5 L of water and extracted thrice with 250 mL portions of ethyl acetate. The ethyl acetate fractions were combined, washed with water and brine, dried (MgSO4), and concentrated under reduced pressure to give a dark oil. The oil was purified by column chromatography using 250 g of silica gel on a 65 cm×4 cm column eluted with 5% methanol in methylene chloride. The fractions containing the desired product were combined and concentrated under reduced pressure to give a glass. The glass was converted to the hydrochloric acid salt, and the solid was recrystallized from 2-propanol/isopropyl ether to yield 2.8 g (27%) of the title compound as a white solid, mp 107°-110° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.020 mole, 6.1 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 4-chloro-N-methyl-N-phenylbutanamide | 0.030 mole, 6.4 g | ClCCCC(=O)N(C1=CC=CC=C1)C | C11H14ClNO
reactant | sodium carbonate | 0.080 mole, 8.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.002 mole, 0.4 g | [I-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 1.5 L | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-N-phenyl-1-piperidinebutanamide hydrochloride hydrate | 2.8 g, 27% | O.Cl.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCC(=O)N(C1=CC=CC=C1)C)(O)C1=CC=C(C=C1)F | InChI=1S/C29H32F2N2O2.ClH.H2O/c1-32(27-6-3-2-4-7-27)28(34)8-5-19-33-20-17-24(18-21-33)29(35,22-9-13-25(30)14-10-22)23-11-15-26(31)16-12-23;;/h2-4,6-7,9-16,24,35H,5,8,17-21H2,1H3;1H;1H2
